US07863298B2
To a solution of 4-[1-(4-bromophenyl)-1-ethylpropyl]-2-methylphenol (2.1 g, 6.3 mmol) in anhyd MeCN (30 mL) added anhyd K2CO3 (2.9 g, 21 mmol) and benzyl bromide (0.83 mL, 7.0 mmol). The reaction mixture was heated at reflux. After 20 h, the reaction mixture was cooled, diluted with Et2O (100 mL) and filtered. The filtrate was washed with H2O (2×50 mL) and brine, dried (anhyd Na2SO4), concentrated under reduced pressure and chromatographed (silica, EtOAC/Hex, 0:100 to 15:85) to give 5-[1-(4-bromophenyl)-1-ethylpropyl]-2-benzyloxytoluene (2.2 g, 82%), as a colorless liquid: 1H-NMR (CDCl3) δ 7.43-7.48 (2H, m), 7.31-7.42 (5H, m), 7.06 (2H, d, J=8.6), 6.94 (1H, dd, J=2.3, 8.3), 6.89 (1H, d, J=2.3), 6.79 (1H, d, J=8.3), 5.05 (2H, s), 4.23 (1H, s), 2.23 (3H, s), 2.05 (4H, q, J=7.3), 0.62 (6H, t, J=7.3).

reactant | 4-[1-(4-bromophenyl)-1-ethylpropyl]-2-methylphenol | 6.3 mmol, 2.1 g | BrC1=CC=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)O)C | C18H21BrO
reactant | MeCN | 30 mL | CC#N | C2H3N
reactant | K2CO3 | 21 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 7.0 mmol, 0.83 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 5-[1-(4-bromophenyl)-1-ethylpropyl]-2-benzyloxytoluene | 2.2 g, 82% | BrC1=CC=C(C=C1)C(CC)(CC)C=1C=CC(=C(C1)C)OCC1=CC=CC=C1 | C25H27BrO
